US05011992
4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-hydroxybenzamide
To a solution of sodium ethanethiolate in DMF is added 4-amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-methoxybenzamide and the mixture heated under reflux to 1 h. After cooling, the mixture is neutralized with hydrochloric acid, concentrated in vacuo and the residue purified by chromatography to give the title compound.

reactant | sodium ethanethiolate | C(C)[S-].[Na+]
reactant | 4-amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)NC2CN3CCC2CC3)C=C1Cl)OC | C15H20ClN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-hydroxybenzamide | NC1=CC(=C(C(=O)NC2CN3CCC2CC3)C=C1Cl)O | C14H18ClN3O2
